US06194409B1
100b. 1-[(R)-Ethoxycarbonylamino-cyclohexyl-acetyl]-pyrrolidine-2-(S)-carboxylic acid benzyl ester
Reaction of 1.1 g of (R)-ethoxycarbonylamino-cyclohexyl-acetic acid and 1.16 g of (L)-proline benzyl ester hydrochloride according to the procedure described in example 91b gave 1.50 g (75%) of the title compound as a colorless oil. (+)-APCI-MS: 417 (MH+).

reactant | (R)-ethoxycarbonylamino-cyclohexyl-acetic acid | 1.1 g | C(C)OC(=O)N[C@@H](C(=O)O)C1CCCCC1 | C11H19NO4
reactant | (L)-proline benzyl ester hydrochloride | 1.16 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
product | 1-[(R)-Ethoxycarbonylamino-cyclohexyl-acetyl]-pyrrolidine-2-(S)-carboxylic acid benzyl ester | 1.50 g, 75% | C(C1=CC=CC=C1)OC(=O)[C@H]1N(CCC1)C([C@@H](C1CCCCC1)NC(=O)OCC)=O | C23H32N2O5
